US07981903B2
A mixture of 1-propyl-4-piperidinone (01.25 mL, 8.3 mmol), 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (1.0 g, 4.8 mmol), acetic acid (0.55 mL) and triethylamine (1.3 mL) in 1,2-dichloroethane (5 mL) was stirred for 30 minutes. Sodium triacetoxyborohydride (1.8 g, 2.8 mmol) was added. After stirring for 12 hours the reaction was quenched by the addition of saturated NaHCO3 (aq). The reaction was diluted with dichloromethane and the layers were separated. The aqueous phase was extracted with dichloromethane. The combined organic layers were washed with water, dried over MgSO4 and concentrated onto silica gel. The crude material was purified by flash column chromatography to give 6-(methyloxy)-7-nitro-2-(1-propyl-4-piperidinyl)-1,2,3,4-tetrahydroisoquinoline (1.43 g, 89%). 1H NMR (400 MHz, CDCl3) δ ppm 7.60 (s, 1 H), 6.78 (s, 1 H), 3.91 (s, 3 H), 3.73 (s, 2 H), 3.07 (d, J=9.17 Hz, 2 H), 2.91 (t, J=5.87 Hz, 2 H), 2.83 (t, J=5.68 Hz 2 H), 2.47-2.60 (m, 1 H), 2.29-2.42 (m, 2 H), 2.04 (d, J=10.63 Hz, 2 H), 1.68-1.94 (m, 4 H), 1.49-1.66 (m, 2 H), 0.91 (t, J=7.33 Hz, 3 H).

reactant | 1-propyl-4-piperidinone | 8.3 mmol | C(CC)N1CCC(CC1)=O | C8H15NO
reactant | 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 4.8 mmol, 1.0 g | COC=1C=C2CCNCC2=CC1[N+](=O)[O-] | C10H12N2O3
reactant | acetic acid | 0.55 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 2.8 mmol, 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
product | 6-(methyloxy)-7-nitro-2-(1-propyl-4-piperidinyl)-1,2,3,4-tetrahydroisoquinoline | 1.43 g, 89% | COC=1C=C2CCN(CC2=CC1[N+](=O)[O-])C1CCN(CC1)CCC | C18H27N3O3
